US05378846
2-Benzoyl-1,2,3,4-Tetrahydropyrrolo-[1,2-a]-Pyrazine
To a solution of 12.2 g of 1,2,3,4-tetrahydropyrrolo-[1,2-a]-pyrazine and 22.2 g of triethylamine in 50 ml of anhydrous benzene, 15.4 g of benzoyl chloride was added in small portions at 10°-15° C. The reaction mass was stirred for 3 hours at room temperature and then poured into water. The organic phase was separated, and washed with a 5% solution of sodium carbonate and then water. The solvent was removed by distillation, the residue was distilled under vacuum, and the fraction with a boiling point of 189°-191° C. at 1 mm Hg was collected. The yield of the title compound was 15 g (66.5%). Nmr (CDCl3): δ3.7-3.9 (m) (4H, 3,4-CH2); 4.58 (s) (2H, 1-CH2); 5.6-5.8 (m) (1H, 7-H); 5.8-6.0 (m) (1H, 8-H); 6.2-6.4 (m) (1H, 6 -H); 7.2-7.4 (m) (5H-C6H5). Anal. calculated for C14H14N2O: C 74.31%; H 6.24%; N 12.38% and found: C 74.21%; H 6.24%; N 12.45%.

reactant | 1,2,3,4-tetrahydropyrrolo-[1,2-a]-pyrazine | 12.2 g | C1C=2N(CCN1)C=CC2 | C7H10N2
reactant | triethylamine | 22.2 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 15.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-Benzoyl-1,2,3,4-Tetrahydropyrrolo-[1,2-a]-Pyrazine | C(C1=CC=CC=C1)(=O)N1CC=2N(CC1)C=CC2 | C14H14N2O
